US07666907B2
Preparation of 3,4,5-trimethoxybenzoic acid 2-(dimethylamino)-2-phenylbutyl ester 4-thiocarbamoyl benzoate (Trimebutine thiocarbamoylbenzoate)
To a mixture of 4-(thiocarbamoyl) benzoic acid (0.1 mol) and trimebutine (0.1 mol), water (200 mL) and ethyl alcohol (20 mL) have been added and the resulting suspension has been stirred at room temperature until clear. Then the solution has been frozen and lyophilized furnishing the desired salt (quantitative yield).

reactant | 4-(thiocarbamoyl) benzoic acid | 0.1 mol | C(N)(=S)C1=CC=C(C(=O)O)C=C1 | C8H7NO2S
reactant | trimebutine | 0.1 mol | CCC(COC(=O)C=1C=C(C(=C(C1)OC)OC)OC)(C=2C=CC=CC2)N(C)C | C22H29NO5
reactant | water | 200 mL | O | H2O
solvent | ethyl alcohol | 20 mL | C(C)O | C2H6O
product | 3,4,5-trimethoxybenzoic acid 2-(dimethylamino)-2-phenylbutyl ester 4-thiocarbamoyl benzoate | quantitative yield | C(N)(=S)C1=CC=C(C(=O)O)C=C1.CN(C(COC(C1=CC(=C(C(=C1)OC)OC)OC)=O)(CC)C1=CC=CC=C1)C | InChI=1S/C22H29NO5.C8H7NO2S/c1-7-22(23(2)3,17-11-9-8-10-12-17)15-28-21(24)16-13-18(25-4)20(27-6)19(14-16)26-5;9-7(12)5-1-3-6(4-2-5)8(10)11/h8-14H,7,15H2,1-6H3;1-4H,(H2,9,12)(H,10,11)
